US06235731B1
Concentrated hydrochloric aicd (1.5 ml) was added to N-[1-[3-(3-tert-butoxycarbonylaminophenyl)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide (392 mg, 0.735 mmol) and the mixture was stirred at room temperature for 1 hour. Ethanol was added to the mixture to give N-[1-[3-(3-aminophenyl)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide trihydrochloride as orange crystals (265 mg, 66%), which were collected by filtration and washed with ethanol.

reactant | hydrochloric aicd | 1.5 ml | Cl | ClH
reactant | N-[1-[3-(3-tert-butoxycarbonylaminophenyl)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.735 mmol, 392 mg | C(C)(C)(C)OC(=O)NC=1C=C(C=CC1)CCCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C29H35N5O3S
solvent | Ethanol | C(C)O | C2H6O
product | N-[1-[3-(3-aminophenyl)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide trihydrochloride | 265 mg, 66% | Cl.Cl.Cl.NC=1C=C(C=CC1)CCCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C24H27N5OS.3ClH/c25-18-6-1-4-17(14-18)5-3-11-28-12-9-19(10-13-28)27-24(30)21-15-20-16-26-22-7-2-8-23(31-21)29(20)22;;;/h1-2,4,6-8,14-16,19H,3,5,9-13,25H2,(H,27,30);3*1H
